US09216173B2
Benzyl tert-butyl (3-hydroxypropane-1,2-diyl)biscarbamate (400 mg, 1.23 mmol) was dissolved in methanol (12.3 mL) and put under a hydrogen atmosphere with 3 cycles of evacuation and hydrogen balloon flushing. The reaction mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours, and then filtered through CELITE. The filtrate was concentrated under reduced pressure to afford tert-butyl 1-amino-3-hydroxypropan-2-ylcarbamate. MS ESI calcd. for C8H19N2O3 [M+H]+ 191. found 191. 1H NMR (500 MHz, CDCl3) δ 5.25 (s, 1H), 3.87 (d, J=10.0 Hz, 1H), 3.71 (d, J=10.5 Hz, 1H), 3.59-3.63 (m, 1H), 3.08 (d, J=10.6 Hz, 1H), 2.90 (d, J=10.1 Hz, 1H), 1.84 (s, 2H), 1.45 (s, 9H).

reactant | Benzyl tert-butyl (3-hydroxypropane-1,2-diyl)biscarbamate | 1.23 mmol, 400 mg | OCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C16H24N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 12.3 mL | CO | CH4O
product | tert-butyl 1-amino-3-hydroxypropan-2-ylcarbamate | NCC(CO)NC(OC(C)(C)C)=O | C8H18N2O3
